US07456315B2
4-Acetoxy-3,5-dimethoxy-benzoic acid (1.45 g) was heated with thionyl chloride (0.86 g) in 3 mL of dimethoxyethane. After 1.5 hours the mixture was stripped under vacuum leaving 1.60 g of 4-acetoxy-3,5-dimethoxy-benzoyl chloride as an oil. 1H NMR (CDCl3, 300 MHz) δ (ppm): 2.26 (s, 3H), 3.89 (s, 9H), 7.34 (s, 2H).

reactant | 4-Acetoxy-3,5-dimethoxy-benzoic acid | 1.45 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1OC)OC | C11H12O6
reactant | thionyl chloride | 0.86 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
product | 4-acetoxy-3,5-dimethoxy-benzoyl chloride | 1.60 g | C(C)(=O)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C11H11ClO5
